US05763530
Preparation of Acryloyloxyethyltrimethylammonium Chloride/Acrylamide Copolymer Microemulsion.
An organic solution is prepared by combining a low odor paraffin oil (208.4 g), polyoxyethylene sorbitan monooleate (9.0 g) and polyoxyethylene sorbitan trioleate (32.6 g) in a reactor with stirring. To this solution is added an aqueous solution, adjusted to pH=3.5 with sulfuric acid, containing acrylamide (24.0 g), acryloxyethyltrimethyl ammonium chloride (80.2 g), sodium bromate (0.01 g), ethylenediaminetetraacetic acid tetra sodium salt (0.21 g), and water (145.58 g).

reactant | polyoxyethylene sorbitan trioleate | 32.6 g | COC(=O)C1=C(C=CS1)S(=O)(=O)NCC2=CC3=C(C=C2)OCO3 | C14H13NO6S2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acrylamide | 24.0 g | C(C=C)(=O)N | C3H5NO
reactant | acryloxyethyltrimethyl ammonium chloride | 80.2 g | [Cl-].C(C=C)(=O)OCC[N+](C)(C)C
reactant | sodium bromate | 0.01 g | Br(=O)(=O)[O-].[Na+]
reactant | ethylenediaminetetraacetic acid tetra sodium salt | 0.21 g | [Na+].[Na+].[Na+].[Na+].C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-]
solvent | water | 145.58 g | O | H2O
product | Acryloyloxyethyltrimethylammonium Chloride Acrylamide | [Cl-].C(C=C)(=O)OCC[N+](C)(C)C.C(C=C)(=O)N | InChI=1S/C8H16NO2.C3H5NO.ClH/c1-5-8(10)11-7-6-9(2,3)4;1-2-3(4)5;/h5H,1,6-7H2,2-4H3;2H,1H2,(H2,4,5);1H/q+1;;/p-1
